US07592477B2
Step a) Formation of 4-(dodecyloxy)-1-naphthaldehyde
To a solution of 1-bromodecane (10.0 g, 40.12 mmol) and 4-hydroxy-1-naphthaldehyde (6.29 g, 36.5 mmol) in anhydrous DMF (150 mL) was added NaOMe (2.38 g, 44.1 mmol). The mixture was stirred at 50° C. for 5 h. The reaction mixture was cooled to rt and concentrated under vacuo. The residue was dissolved in EtOAc and washed with brine (3×), dried over MgSO4, filtered and concentrated under reduced pressure to give an orange solid. Purification by chromatography (SiO2, c-Hex/EtOAc 9/1) gave the title product as a beige powder (11.12 g, 81%). 1H NMR (CDCl3, 300 MHz) δ 10.2 (s, 1H), 9.29 (d, 1H, J=8.7 Hz), 8.35 (d, 1H, J=8.7 Hz), 7.90 (d, 1H, J=8.3 Hz), 7.69 (m, 1H), 7.57 (m, 1H), 6.90 (d, 1H, J=7.9 Hz), 4.23 (t, 2H, J=6.4 Hz), 2.01-1.79 (m, 2H), 1.68-1.48 (m, 2H), 1.45-1.20 (m, 16H), 0.87 (m, 3H). HPLC (Condition A), Rt: 6.61 min (HPLC purity: 85.8%).

reactant | 1-bromodecane | 40.12 mmol, 10.0 g | BrCCCCCCCCCC | C10H21Br
reactant | 4-hydroxy-1-naphthaldehyde | 36.5 mmol, 6.29 g | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | NaOMe | 44.1 mmol, 2.38 g | C[O-].[Na+]
reactant | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 4-(dodecyloxy)-1-naphthaldehyde | 11.12 g, 81% | C(CCCCCCCCCCC)OC1=CC=C(C2=CC=CC=C12)C=O | C23H32O2
